US07253286B2
N-(4-((7-(3-Bromopropoxy)-6-cyano-4-quinolyl)oxy)-2-chlorophenyl)-N′-cyclopropylurea
The title compound (129 mg, 0.250 mmol, 15.6%) was obtained as light brown crystals from an N-(4-(6-cyano-7-hydroxy-4-quinolyl)oxy-2-chlorophenyl)-N′-cyclopropylurea crude product (500 mg, 1.60 mmol) and 1,3-dibromopropane, by the same procedure as in Example 7.

reactant | N-(4-(6-cyano-7-hydroxy-4-quinolyl)oxy-2-chlorophenyl)-N′-cyclopropylurea | C(#N)C=1C=C2C(=CC=NC2=CC1O)OC1=CC(=C(C=C1)NC(=O)NC1CC1)Cl | C20H15ClN4O3
reactant | 1,3-dibromopropane | BrCCCBr | C3H6Br2
product | N-(4-((7-(3-Bromopropoxy)-6-cyano-4-quinolyl)oxy)-2-chlorophenyl)-N′-cyclopropylurea | 0.250 mmol, 129 mg, 15.6% | BrCCCOC1=C(C=C2C(=CC=NC2=C1)OC1=CC(=C(C=C1)NC(=O)NC1CC1)Cl)C#N | C23H20BrClN4O3
